US07592352B2
h) 4-Amino-3-(3-chloro-4-fluoro-phenyl)-7-(3-sulfamoylphenyl)thieno[3,2-c]pyridine (If)
The mixture of 4-amino-7-bromo-3-(3-chloro-4-fluoro-phenyl)thieno[3,2-c]pyridine (40 mg, 0.112 mmol), Pd(PPh3)4 (19 mg, 10 mol %), 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide (36.8 mg, 0.224 mmol) and 2M Na2CO3 aqueous solution (0.28 ml, 0.56 mmol) in 2 ml of DME was stirred for 14 hours at 80° C. As starting material remained, same amount of reagents described above and DMF (2 ml) were added and stirred for 5 hours at 100° C. The resultant mixture was directly applied to SCX (Varian, 5 g) and eluted with 1N NH3 in CHCl3 and MeOH was collected, and the eluant was concentrated in vacuo. The residue was purified by chromatography on a silica gel column to afford the titled compound (9.8 mg) 1H NMR (400 MHz, DMSO-d6) ppm 8.12 (dd, J=1.8 Hz, 1H), 8.0 s, 1H), 7.91 (ddd, J=1.5, 1.5, 7.6 Hz, 1H), 7.85 (ddd, J=1.4, 1.4, 7.1 Hz, 1H), 7.75 (dd, J=7.8 Hz, 1H), 7.67 (s, 1H), 7.57 (dd, J=9.0 Hz, 1H), 7.51 (ddd, J=2.2, 4.9, 8.5 Hz, 1H), 7.45 (s, 2H), 5.66 (s, 2H). MS: m/z 434 (M+H)+.

reactant | 4-amino-7-bromo-3-(3-chloro-4-fluoro-phenyl)thieno[3,2-c]pyridine | 0.112 mmol, 40 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)F)Cl)Br | C13H7BrClFN2S
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzenesulfonamide | 0.224 mmol, 36.8 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)S(=O)(=O)N)C | C12H18BNO4S
reactant | Na2CO3 | 0.56 mmol, 2M, 0.28 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DME | 2 ml | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 19 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Amino-3-(3-chloro-4-fluoro-phenyl)-7-(3-sulfamoylphenyl)thieno[3,2-c]pyridine | 9.8 mg | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)F)Cl)C2=CC(=CC=C2)S(N)(=O)=O | C19H13ClFN3O2S2
